US07888508B2
Preparation of 1-tert-butyl-5-nitro-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid
To a suspension of 5.00 g (16.38 mmol) of 1-tert-butyl-5-nitro-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid propyl ester in 50 mL of 95° ethanol, it was added 2M NaOH (50 mL; 100 mmol) under stirring. The mixture was heated to reflux for 1 hour obtaining the complete consumption of the substrate. The resulting solution was cooled to room temperature and concentrated under reduced pressure to a slurry that was diluted with 250 mL of water and washed with 100 mL of a 1:1 mixture of diethyl ether and ethyl acetate. The aqueous layer was treated with 5M HCl (37 mL; 185 mmol) under efficient stirring at room temperature. The precipitate was filtered off, washed twice with 10 mL of water and dried so as to afford 3.84 g of the title compound as a white solid.

reactant | 1-tert-butyl-5-nitro-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid propyl ester | 16.38 mmol, 5.00 g | C(CC)OC(=O)C1=CN(C2=NC=C(C=C21)[N+](=O)[O-])C(C)(C)C | C15H19N3O4
reactant | NaOH | 100 mmol, 2M, 50 mL | [OH-].[Na+]
reactant | HCl | 185 mmol, 5M, 37 mL | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1-tert-butyl-5-nitro-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | 3.84 g, Yield=89% | C(C)(C)(C)N1C=C(C=2C1=NC=C(C2)[N+](=O)[O-])C(=O)O | C12H13N3O4
